US05767131
A suspension of 4-nitrobenzaldehyde (16.61 g, 110 mmol), 2-cyanoethyl butyrylacetate (19.34 g, 100 mmol), piperidine (430 mg, 5.00 mmol) and acetic acid (300 mg, 5.00 mmol) in 350 ml of 2-propanol was stirred at room temperature for 48 hrs. The reaction mixture was filtered and resulting solid was air dried to give 2-[(4-nitrophenyl)methylene]-3-oxohexanoic acid 2-cyanoethyl ester as a white powder (31.0 g, 95%).

reactant | 4-nitrobenzaldehyde | 110 mmol, 16.61 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-cyanoethyl butyrylacetate | 100 mmol, 19.34 g | C(CCC)(=O)CC(=O)OCCC#N | C9H13NO3
solvent | 2-propanol | 350 ml | CC(C)O | C3H8O
catalyst | piperidine | 5.00 mmol, 430 mg | N1CCCCC1 | C5H11N
catalyst | acetic acid | 5.00 mmol, 300 mg | C(C)(=O)O | C2H4O2
product | 2-[(4-nitrophenyl)methylene]-3-oxohexanoic acid 2-cyanoethyl ester | 31.0 g, 95% | C(#N)CCOC(C(C(CCC)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H16N2O5
